US04179563
A solution of 81.5 g of 2-piperazinylpyridine [J. Org. Chem., 18, 1484 (1953)] in 250 g of 48% hydrobromic acid is heated at 70° C. With stirring, 80 g of liquid bromine is added dropwise. The mixture is heated at 115° C. for 1 hour. The mixture is cooled and the product 3-bromo-6-piperazinylpyridine hydrobromide is isolated by filtration. The salt is treated with excess dilute sodium hydroxide and extracted into toluene. The 3-bromo-6-piperazinylpyridine crystallizes as the solvent is removed in vacuo and is recrystallized from toluene-petroleum ether; mp 70°-73° C.

reactant | 2-piperazinylpyridine | 81.5 g | N1(CCNCC1)C1=NC=CC=C1 | C9H13N3
reactant | bromine | BrBr | Br2
solvent | hydrobromic acid | 250 g | Br | BrH
product | 3-bromo-6-piperazinylpyridine hydrobromide | Br.BrC=1C=NC(=CC1)N1CCNCC1 | InChI=1S/C9H12BrN3.BrH/c10-8-1-2-9(12-7-8)13-5-3-11-4-6-13;/h1-2,7,11H,3-6H2;1H
